US03937707
6 grams of 6-(3-chloropropoxy)-1-phenazinol 5,10-dioxide and 40ml piperidine were placed in a flask and stirred at room remperature for 21 hours. The reaction mixture was diluted with 500ml of chloroform. The mixture was then washed with water until the aqueous washes were neutral, extracted with 3 × 250ml of 10 percent HCl. Combined acid extracts were neutralized with sodium carbonate and extracted with 4 × 500ml of chloroform. The chloroform extracts were washed with water, dried over sodium sulfate and evaporated in vacuo. The residue was recrystallized from acetone and dried for 16 hours at 50°C to yield 6-(3-piperidinopropoxy)-1-phenazinol 5,10-dioxide, m.p. 92°-97°C (dec.).

reactant | 6-(3-chloropropoxy)-1-phenazinol 5,10-dioxide | 6 grams | ClCCCOC1=C2[N+](=C3C=CC=C(C3=[N+](C2=CC=C1)[O-])O)[O-] | C15H13ClN2O4
reactant | piperidine | 40ml | N1CCCCC1 | C5H11N
solvent | chloroform | 500ml | C(Cl)(Cl)Cl | CHCl3
product | 6-(3-piperidinopropoxy)-1-phenazinol 5,10-dioxide | N1(CCCCC1)CCCOC1=C2[N+](=C3C=CC=C(C3=[N+](C2=CC=C1)[O-])O)[O-] | C20H23N3O4
